US04845188
4-(Methylthio)Benzaldehyde (3.04 g, .02 mol), diethyl malonate (3.20 g. .02 mol), toluene (25 mL), piperidine (4 drops) and acetic acid (2 drops) are mixed and heated at reflux for 2 hours with the water formed being removed azeotropically. The solution is cooled and 25 mL of water added stirring. After separation of the layers, the toluene is evaporated from the organic layer to yield the product, diethyl 2-[[4-(methylthio)phenyl]methylene]propanedioate, in essentially quantitative yield. When dissolved in methylene chloride, the product has an absorption maximum (λmax) at 330 nm in the ultraviolet absorption spectrum. The identity of the product is confirmed by mass spectroscopy analysis.

reactant | 4-(Methylthio)Benzaldehyde | .02 mol, 3.04 g | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | diethyl malonate | .02 mol, 3.20 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | piperidine | 4 drops | N1CCCCC1 | C5H11N
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | diethyl 2-[[4-(methylthio)phenyl]methylene]propanedioate | quantitative yield | CSC1=CC=C(C=C1)C=C(C(=O)OCC)C(=O)OCC | C15H18O4S
